US07977344B2
6-Amino-2-[(cyclohexylmethyl)amino]-9-(tetrahydro-2H-Pyran-4-ylmethyl)-7,9-dihydro-8H-Purin-8-one
To a solution of 8-bromo-N2-(cyclohexylmethyl)-9-(tetrahydro-2H-pyran-4-ylmethyl)-9H-purine-2,6-diamine (110 mg) in dry n-butanol (1.5 ml) was added 37% grade hydrochloric acid (1.5 ml) at RT. The reaction was heated to 100° C. for six hours. The reaction was concentrated in vacuo, taken up in water (5 ml) and neutralised by the addition of 2.0M sodium hydroxide solution. The resulting white precipitate was filtered. This was purified by C18 reverse phase chromatography using water (containing 0.1% formic acid)-acetonitrile (containing 0.05% formic acid) as eluant (20-60%) to afford a white solid (20 mg).

reactant | 8-bromo-N2-(cyclohexylmethyl)-9-(tetrahydro-2H-pyran-4-ylmethyl)-9H-purine-2,6-diamine | 110 mg | BrC=1N(C2=NC(=NC(=C2N1)N)NCC1CCCCC1)CC1CCOCC1 | C18H27BrN6O
reactant | hydrochloric acid | 1.5 ml | Cl | ClH
reactant | n-butanol | 1.5 ml | C(CCC)O | C4H10O
product | 6-Amino-2-[(cyclohexylmethyl)amino]-9-(tetrahydro-2H-Pyran-4-ylmethyl)-7,9-dihydro-8H-Purin-8-one | 20 mg | NC1=C2NC(N(C2=NC(=N1)NCC1CCCCC1)CC1CCOCC1)=O | C18H28N6O2
